Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Difficulty producing speech
 
Major Surgical or Invasive Procedure:
NA
 
History of Present Illness:
Mrs. ___ is a ___ h/o multiple strokes, HTN, HLD p/w
diminished, non-fluent speech output. 

Her neurologic history began in ___ with a left occipital
infarct due to presumed artery-to-artery embolus for which she
was briefly treated with coumadin. This left her with a right
field homonymous hemianopsia. She has since been on aspirin and
atorvastatin. She has not been seen by Dr. ___
neurologist, since ___. She has had some syncopal episodes in
the past and these were attributed to low blood pressure (most
recently in ___ seen in the ED). She may have had
non-fluent speech at that time per her daughter, but this was 
not
mentioned in ED documents and neurology was not consulted. 

Recently, the patient has been at her baseline and has not had
infections or anything that sounds like a TIA. She was at dinner
with her niece and daughter this evening and towards the end of
the meal, they noticed that the patient's speech output was
decreased. She seemed to understand what was being said to her
but she only responded with a word or two. She was searching
around in her purse for something, though it was not clear what.
She generally seemed to be acting in an odd manner. They were
concerned about stroke; they are under the impression that back
in ___ she did have a stroke (again, this does not correlate 
with
ED documentation). 

She was brought to ___ where initial VS were 0 97.8 69 185/66
16 100% with a ___ of 156. Initially, she could not say her name
and only occasionally was able to produce a word. Code stroke 
was
called for possible aphasia. This improved by the time I arrived
but she still could not name hammock or cactus. She was
disoriented to the month (___) but otherwise she only had
field cuts. NCHCT did not show any acute infarction though there
has been progression of cerebrovascular disease (esp small 
vessel
L>R) since her last scan a decade ago. CTA did not show any
large-vessel cut-offs. Her EtOH level returned at 210; the
remainder of the work-up was unrevealing. Her NIHSS was very low
and she had rapidly improving deficits so she did not get tPA. 

ROS: Positive for occasional neck pain (not actually present at
the moment but intermittent over the past few weeks when she
turns her head), old field cut (says that left inferior quadrant
has not had vision recently). Denies any previous difficulty
comprehending, producing, or articulating speech. No acute 
vision
changes. No numbness of the face or body and no weakness of the
face or body. No hearing changes or dizziness. No
coughing/gagging on food. No incontinence. Medical ROS negative
for F/C, ear pain, rhinorrhea, cough, CP, SOB, abdominal pain,
N/V/C/D, myalgias, arthralgias, rash.  
 
Past Medical History:
- Stroke: hospitalized here in ___
- HTN
- HLD
- Hypothyroid
- RA
- Gout
- s/p cataract surgeries ___
- s/p podiatric surgery
 
Social History:
___
Family History:
Negative for stroke
 
Physical Exam:
97.8 165/68  64  14  99 RA  ___ 156
GEN: NAD NT ND
HEENT: NC/AT no ptosis
NECK: Supple, restricted ROM bidirectionally. No clear bruits.
CARD: RRR with systolic murmur in Ao position
PULM: CTAB no r/r/w
ABD: Soft NT ND NABS
EXTREM: Cool; no c/c/e; s/p foot surgeries
 - MS: Oriented to her name, ___, at first says ___
and then ___. Able to do DOWIR slowly with help 
getting
started. When doing this independently she does not get started
correctly and failed the task. By this point she is producing
fluent sentences and while she cannot name cactus or hammock,
there are no paraphasic errors. She can read and repeat phrases.
She follows commands quickly. Crosses the midline. Follows
commands with some errors. Registers ___. 
 - CN: Pupils post-surgical ___ left elliptoid and small, right
eccentric, asymmetric, and large. Extensive field cuts - right
hemianopia and left inferior quadrantanopia. Left superior and
central vision are preserved. EOMI. Face symmetric to pin. NLFs
are symmetric with full activation. Audition less on the left.
Tongue and palate midline. Shrug is full. 
 - MOTOR: Slight upward drift of both hands left > right. Right
toe seems very weakly up and the left is flexor. No ___.
Increased tone in lowers; difficult to tell ___ relaxation
difficulty in the uppers. 5- UMN pattern. 
 - SENSORY: Symmetric to pin without lateralizing difference or
gradient in the legs. Hallux proprioception intact. Did not
extinguish to double. Laughed when tested for graphesthesia;
difficult to interpret. Deferred Romberg.
 - REFLEXES: Difficulty relaxing but seems to be 2s in biceps 
and
BR, 1 in triceps, ? minimal vs absent in patellars and absent at
the ankles. 
 - CEREBELLAR: Fluid heel/shin and normal FNF. No truncal 
ataxia.
 - GAIT: Kyphotic, takes short shuffling steps with aid of cane
in right hand but relatively stable. 

On discharge The patient's exam is largely unchanged from above. 

 
Pertinent Results:
___ 08:10PM BLOOD WBC-5.5 RBC-4.26 Hgb-14.3 Hct-42.6 
MCV-100* MCH-33.5* MCHC-33.5 RDW-13.1 Plt ___
___ 08:10PM BLOOD ___ PTT-27.2 ___
___ 08:10PM BLOOD Glucose-116* UreaN-23* Creat-1.1 Na-145 
K-4.0 Cl-106 HCO3-30 AnGap-13
___ 08:10PM BLOOD ALT-22 AST-26 AlkPhos-92 TotBili-0.9
___ 08:10PM BLOOD cTropnT-<0.01
___ 06:00AM BLOOD CK-MB-8 cTropnT-<0.01
___ 06:00AM BLOOD Cholest-141
___ 04:31PM BLOOD %HbA1c-5.7 eAG-117
___ 06:00AM BLOOD Triglyc-160* HDL-54 CHOL/HD-2.6 
LDLcalc-55
___ 08:10PM BLOOD ASA-NEG ___ Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 08:40PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG mthdone-NEG

CT/CTP ___. No evidence of acute intracranial hemorrhage or mass effect. 
2. No clear perfusion abnormality (see findings). 
3. Focal hypodensities within the left caudate and left 
posterior limb of the internal capsule, new from ___ 
although age-indeterminate. 
4. Chronic left occipital infarct with associated ex vacuo 
dilatation of the posterior horn of left lateral ventricle. 
5. Brain parenchymal volume loss and presumed sequelae of 
chronic small vessel ischemic disease. 
6. Occlusion or stenosis of the left posterior cerebral artery 
beginning at the P2 segment, which may be chronic as at least a 
portion of this appearance was present on prior MRA from ___ 
although cross-modality comparison is somewhat difficult. 

MRI brain ___. No evidence of acute intracranial hemorrhage or mass effect. 
2. Small  focus of hyperintense diffusion-weighted signal within 
the left 
caudate without clear ADC correlate, the findings of which could 
represent a late subacute infarct with pseudonormalized ADC 
signal versus T2 "shine-through" artifact. 
3. Old left occipital infarct with associated ex vacuo 
dilatation of the 
posterior horn of the left lateral ventricle. 
4. Additional brain parenchymal volume loss and presumed 
sequelae of chronic small vessel ischemic disease and prior 
ischemia. 

___ ___ negative 
 
Brief Hospital Course:
This is a ___ yo independent ___ woman with HTN who presented in 
the setting of almost two weeks of nonspecific weakness, 
personality change, acute onset of non-fluent aphasia. On 
presentation she was noted to have a right homonomous 
hemianopsia, some frontal signs (mildly blunted affect, trouble 
with luria sequencing) and some parietal signs (unable to label 
a clock/apraxic, right parietal upwards drift). The patient was 
found to have an EtOH level of 210. The patient's aphasia 
resolved and her other symptoms/signs have remained and are 
likely chronic. Her MRI showed an old left occipital infarct 
(corresponding to her right field cut), significant volume loss, 
and a subacute infarct vs T2 shine though/artifact in the left 
caudate. The patient is being treated for assumed TIA though her 
intoxication likely contributed to her presenting symptoms. Plan 
to switch the patient from asa to plavix which was discussed 
with the pt's primary care doctor. 

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack

1. Dysphagia screening before any PO intake? (x) Yes [performed 
and documented by admitting resident] – () No

2. DVT Prophylaxis administered by the end of hospital day 2? 
(x) Yes - () No

3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No

4. LDL documented (required for all patients)? (x) Yes (LDL = 
55) - () No

5. Intensive statin therapy administered? () Yes - (x) No [if 
LDL >= 100, reason not given: ____ ]
(intensive statin therapy = simvastatin 80mg, simvastatin 
80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, rosuvastatin 
20mg or 40mg, for LDL >= 100)

6. Smoking cessation counseling given? () Yes - (x) No [if no, 
reason: (x) non-smoker - () unable to participate]

7. Stroke education given (written form in the discharge 
worksheet)? (x) Yes - () No
(stroke education = personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup)

8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No [if no, reason not assessed: ____ ]

9. Discharged on statin therapy? (x) Yes - () No [if LDL >= 100 
or on a statin prior to hospitalization, reason not discharged 
on statin: ____ ]

10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No

11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No [if no, reason not 
discharge on anticoagulation: ____ ] - (x) N/A

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Alendronate Sodium 70 mg PO 1X/WEEK (MO) 
2. Allopurinol 50 mg PO DAILY 
3. Atorvastatin 10 mg PO QPM 
4. FoLIC Acid 1 mg PO DAILY 
5. irbesartan 75 mg oral daily 
6. Levothyroxine Sodium 50 mcg PO DAILY 
7. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1. Alendronate Sodium 70 mg PO 1X/WEEK (MO) 
2. Allopurinol 50 mg PO DAILY 
3. Atorvastatin 10 mg PO QPM 
4. FoLIC Acid 1 mg PO DAILY 
5. irbesartan 75 mg oral daily 
6. Levothyroxine Sodium 50 mcg PO DAILY 
7. Clopidogrel 75 mg PO DAILY 
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Transient Ischemic Attack
hypertension 
HLD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___,
You were hospitalized due to symptoms of trouble with your 
speech which may have been the result of a TIA (Transient 
Ischemic Attack), a condition in which a blood vessel providing 
oxygen and nutrients to the brain is temporarily blocked by a 
blood clot. The brain is the part of your body that controls and 
directs all the other parts of your body, so damage to the brain 
from being deprived of its blood supply can result in a variety 
of symptoms.
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:
- high blood pressure
- high cholesterol 

We are changing your medications as follows:
Adding a medication call PLAVIX to prevent blood clots 

Please take your other medications as prescribed.
Please followup with Neurology and your primary care physician 
as listed below.
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- sudden partial or complete loss of vision
- sudden loss of the ability to speak words from your mouth
- sudden loss of the ability to understand others speaking to 
you
- sudden weakness of one side of the body
- sudden drooping of one side of the face
- sudden loss of sensation of one side of the body
- sudden difficulty pronouncing words (slurring of speech)
- sudden blurring or doubling of vision
- sudden onset of vertigo (sensation of your environment 
spinning around you)
- sudden clumsiness of the arm and leg on one side or sudden 
tendency to fall to one side (left or right)
- sudden severe headache accompanied by the inability to stay 
awake
It was a pleasure providing you with care during this 
hospitalization.
 
Followup Instructions:
___